US04917817
72 mg of sodium hydroxide was dissolved in 0.5 ml of water, followed by addition of 0.5 ml of methanol and 205 mg of ethyl p-(3-trifluoromethylnonyloxy)benzoate and 4 hours of stirring at 50° C. After the reaction, water was added, methanol was removed by distillation under a reduced pressure, and 2N-hydrochloric acid was added, followed by extration with diethyl ether. The ether solution was dried with sodium sulfate, and the solvent was distilled off to obtain 146 mg of optically active p-3-trifluoromethylnonyloxy)benzoic acid (yield: 77.2%).

reactant | sodium hydroxide | 72 mg | [OH-].[Na+]
reactant | methanol | 0.5 ml | CO | CH4O
reactant | ethyl p-(3-trifluoromethylnonyloxy)benzoate | 205 mg | FC(C(CCOC1=CC=C(C(=O)OCC)C=C1)CCCCCC)(F)F | C19H27F3O3
solvent | water | 0.5 ml | O | H2O
product | benzoic acid | yield: 77.2% | C(C1=CC=CC=C1)(=O)O | C7H6O2
